US08633173B2
N-Methyl-N-(3-{2-[3-(1-methyl-piperidin-4-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-yl}-phenyl)-methanesulfonamide was prepared from N-[3-(2-amino-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-phenyl]-N-methyl-methanesulfonamide (75.0 mg, 0.236 mmol) and 4-(3-bromo-phenyl)-1-methyl-piperidine; hydrochloride (76.0 mg, 0.262 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a pale yellow foam (0.093 g, 80%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.46 (d, J=6.6 Hz, 1H), 8.10-8.07 (m, 1H), 7.98 (d, J=7.8 Hz, 1H), 7.61 (d, J=7.2 Hz, 1H), 7.54 (t, J=8.0 Hz, 1H), 7.49 (d, J=8.0 Hz, 1H), 7.46-7.40 (m, 2H), 7.27 (t, J=7.9 Hz, 1H), 6.98 (t, J=7.1 Hz, 1H), 6.88 (d, J=7.7 Hz, 1H), 6.83 (s, 1H), 3.42 (s, 3H), 3.03-2.96 (m, 2H), 2.90 (s, 3H), 2.55-2.45 (m, 1H), 2.34 (s, 3H), 2.12-2.00 (m, 2H), 1.90-1.80 (m, 4H). MS=491 (MH)+.

reactant | N-[3-(2-amino-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-phenyl]-N-methyl-methanesulfonamide | 0.236 mmol, 75.0 mg | NC1=NN2C(C(=CC=C2)C=2C=C(C=CC2)N(S(=O)(=O)C)C)=N1 | C14H15N5O2S
reactant | 4-(3-bromo-phenyl)-1-methyl-piperidine | BrC=1C=C(C=CC1)C1CCN(CC1)C | C12H16BrN
reactant | hydrochloride | 0.262 mmol, 76.0 mg | Cl | ClH
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-Methyl-N-(3-{2-[3-(1-methyl-piperidin-4-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-yl}-phenyl)-methanesulfonamide | CN(S(=O)(=O)C)C1=CC(=CC=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC(=CC=C2)C2CCN(CC2)C | C26H30N6O2S
